US04868202
23.9 g of 2,3-dichloro-(3,3,3-trifluoropropyn-1-yl)-benzene and 15.6 g of N-(2-cyanoethyl)-N-formylglycine are dissolved in 100 ml of acetic anhydride, and the solution is refluxed for 24 h. The mixture is concentrated by evaporation under reduced pressure; the residue is then taken up in toluene, and purified by chromatography through silica gel. The solvent is evaporated off, and from the eluate is obtained 1-(2-cyanoethyl)-3-(2,3-dichlorophenyl)-4-trifluoromethylpyrrole, m.p. 83°-85° C. from ether/hexane (compound No. 3.28).

reactant | 2,3-dichloro-(3,3,3-trifluoropropyn-1-yl)-benzene | 23.9 g | ClC1=C(C=CC=C1Cl)C#CC(F)(F)F | C9H3Cl2F3
reactant | N-(2-cyanoethyl)-N-formylglycine | 15.6 g | C(#N)CCN(CC(=O)O)C=O | C6H8N2O3
solvent | acetic anhydride | 100 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 1-(2-cyanoethyl)-3-(2,3-dichlorophenyl)-4-trifluoromethylpyrrole | C(#N)CCN1C=C(C(=C1)C(F)(F)F)C1=C(C(=CC=C1)Cl)Cl | C14H9Cl2F3N2
